US04980287
(C) Synthesis of 2-carboisopropoxyamino-4-(N-carbobenzoxy-L-prolyl) aminobenzoic acid
A solution was prepared by dissolving 249 mg of N-carbobenzoxy-L-proline and 101.0 mg of N-methylmorpholine in 5 ml of dry tetrahydrofuran and cooling to a temperature of -15° C. The solution was mixed with 136.6 mg of isobutyl chloroformate and the mixture was stirred at a temperature of -15° C. to -10° C. for 2 minutes. Then, a solution of 238 mg of 4-amino-2-carboisopropoxyaminobenzoic acid and 101.2 mg of N-methylmorpholine in 2 ml of dry tetrahydrofuran was added dropwise to the above-mentioned mixture. The resultant reaction mixture was stirred at a temperature of -15° C. to -10° C. for one hour, gradually heated to room temperature, and then stirred at room temperature for 18 hours. The resultant deposit generated in the reaction mixture was removed by filtration, the filtrate was concentrated under a reduced pressure, and an oily yellow substance was obtained.

reactant | N-carbobenzoxy-L-proline | 249 mg | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | N-methylmorpholine | 101.0 mg | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 136.6 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-amino-2-carboisopropoxyaminobenzoic acid | 238 mg | NC1=CC(=C(C(=O)O)C=C1)NC(=O)OC(C)C | C11H14N2O4
reactant | N-methylmorpholine | 101.2 mg | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2-carboisopropoxyamino-4-(N-carbobenzoxy-L-prolyl) aminobenzoic acid | C(=O)(OC(C)C)NC1=C(C(=O)O)C=CC(=C1)NC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C24H27N3O7
